US05998433
Synthesis of (Z)-6-(4-chlorostilbene-4'-carbonyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride
To a solution of 0.867 g (2.383 mmol) of (Z)-6-(4-chlorostilbene-4'-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 10 ml of acetic acid, 0.30 ml (3.57 mmol) of pyrrolidine and 0.29 g (3.57 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 1 hour. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | (Z)-6-(4-chlorostilbene-4'-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 2.383 mmol, 0.867 g | ClC1=CC=C(C=C1)\C=C/C1=CC=C(C=C1)C(=O)N1CC2=C(CC1)C=CO2 | C22H18ClNO2
reactant | pyrrolidine | 3.57 mmol, 0.30 ml | N1CCCC1 | C4H9N
reactant | formaldehyde | 3.57 mmol, 0.29 g | C=O | CH2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | (Z)-6-(4-chlorostilbene-4'-carbonyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | Cl.ClC1=CC=C(C=C1)\C=C/C1=CC=C(C=C1)C(=O)N1CC2=C(CC1)C=C(O2)CN2CCCC2 | InChI=1S/C27H27ClN2O2.ClH/c28-24-11-7-21(8-12-24)4-3-20-5-9-22(10-6-20)27(31)30-16-13-23-17-25(32-26(23)19-30)18-29-14-1-2-15-29;/h3-12,17H,1-2,13-16,18-19H2;1H/b4-3-;
